US07678818B2
A mixture of 1.04 g of 1-bromo-4-cyclopent-1-enyl-benzene (4.7 mmol) and 100 mg of PtO2 in 25 ml toluene was stirred under an atmosphere of hydrogen at RT for 6 h. The reaction mixture was then filtered and the filtrate was evaporated to dryness to give 1.0 g of 1-bromo-4-cyclopentyl-benzene (95%) as a yellow liquid.

reactant | 1-bromo-4-cyclopent-1-enyl-benzene | 4.7 mmol, 1.04 g | BrC1=CC=C(C=C1)C1=CCCC1 | C11H11Br
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | PtO2 | 100 mg | O=[Pt]=O
product | 1-bromo-4-cyclopentyl-benzene | 1.0 g, 95% | BrC1=CC=C(C=C1)C1CCCC1 | C11H13Br
